US04322548
Synthesis of D(-) phenylglycine butyl ester
To 6.3 gram NaHCO3 (0.075 mole) dissolved in 75 ml water was added a mixture 50 ml of heptane and 25 ml MeCl2. To the agitated 2-phase system was added 12.2 gram D(-) phenylglycine butyl ester hydrochloride (0.05 mole) over 20 minutes at 12°-14° C. The layers were allowed to settle.

reactant | NaHCO3 | 0.075 mole, 6.3 gram | C(=O)(O)[O-].[Na+]
reactant | heptane | 50 ml | CCCCCCC | C7H16
reactant | MeCl2 | 25 ml | C(Cl)Cl | CH2Cl2
reactant | phenylglycine butyl ester hydrochloride | 0.05 mole, 12.2 gram | Cl.C(CCC)OC(CNC1=CC=CC=C1)=O
solvent | water | 75 ml | O | H2O
product | phenylglycine butyl ester | C(CCC)OC(CNC1=CC=CC=C1)=O | C12H17NO2
